US04914188
Step 3: Boc-L-Valyl-N-Mehtyl-L-Alanyl-L-Alanine Benzyl Ester
A mixture of 10.75 g (0.0407 mole) of N-methyl-L-alanyl-L-alanine benzyl ester and 9.73 g (0.0448 mole) of Boc-L-valine in 200 ml of dry dichloromethane was stirred and cooled at -10° C. as 9.97 g (0.0986 mole) of triethylamine was added. After stirring for 15 minutes, 12.55 g (0.0493 mole) of BOP-Cl was added and the reaction was stirred at -5° C. for 22 hours. The reaction was diluted with 100 ml of dichloromethane, washed with 100 ml of 10% potassium bisulfate, washed with 2×75 ml of saturated sodium bicarbonate solution, dried over magnesium sulfate, concentrated, and chromatographed on silica gel using 1:1 ether/hexane as the eluent. The product weighed 17.1 g (91% of theory). Its 200 MHz NMR spectrum in chloroform-d was consistent with the proposed structure.

reactant | N-methyl-L-alanyl-L-alanine benzyl ester | 0.0407 mole, 10.75 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC)C)=O)C)=O | C14H20N2O3
reactant | Boc-L-valine | 0.0448 mole, 9.73 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | triethylamine | 0.0986 mole, 9.97 g | C(C)N(CC)CC | C6H15N
reactant | BOP-Cl | 0.0493 mole, 12.55 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Boc-L-Valyl-N-Mehtyl-L-Alanyl-L-Alanine Benzyl Ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N(C)C([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)C)=O)C)=O | C24H37N3O6
